Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Amitiza / senna
 
Attending: ___.
 
Chief Complaint:
abdominal pain  
 
Major Surgical or Invasive Procedure:
___ colonoscopy

 
History of Present Illness:
___ currently on methadone maintenance therapy with history of 
recently treated colitis presents due to severe abdominal pain 
and nausea. Her first bout of colitis occurred ___. She 
presented to ___, ___ with abdominal pain, nausea, 
vomiting and constipation. She was diagnosed with infectious 
colitis based on imaging and was treated with cipro/flagyl with 
resolution of her symptoms. A CBC at that time showed a WBC 
14,000, 49% PMNs/41% lymphs, H&H ___, and platelets 505,000. 
A CT scan showed complete situs inversus with the liver on the 
left, steatosis, colitis of the descending colon on the right, 
nonvisualization of the appendix and a diminutive uterus for the 
age. Because of her symptoms, she was urgently referred for a GI 
evaluation. 
 
She was evaluated by Dr. ___ ___ who felt that pain was 
related to methadone use and poor fiber intake causing severe 
constipation. She was reporting no BM x 1 month and that food 
made her feel like she was swallowing fire at that office visit. 
She was complaining of lower abdominal cramping that could also 
be diffuse and intermittent. KUB showed significant stool and 
the plan was to start methylnaltrexone (not done ___ insurance 
issues).  
 
After seeing Dr. ___ tried two cups of smooth move tea and 
mylanta with successful BMs, the last BM yesterday. She then 
awoke with right sided stabbing pain on ___. She also had 
severe nausea. She did go to her ___ clinic and the 
methadone helped improve her pain. During this time, she had 
chills but no fever and minimal blood in her stool. She has had 
a 15lb unintentional weight loss over the time she has been 
struggling with her constipation and abdominal pain. Because of 
the severe nature of her pain, she was referred to the ED.  

She denies visual complaints. No fevers, chills, chest pain, 
dyspnea, dysuria or vaginal discharge.  

In the ED, VS: 97.7 87 87/55 16 95% RA. Pt given 4 L NS for 
hypotension with BP improving to SBP 120s.  

Labs notable for: bland UA, WC 16.1, Ct 1.4, lactate 1.4  
Studies: CT A/P-- splenic flexure, extending inferiorly along 
the descending colon, compatible with clinical history 
___ be infectious, inflammatory or ischemic. The 
superior mesenteric artery and vein are patent. No pneumatosis 
or portal venous gas.  
2. Abundant colonic stool.  
3. Trace pelvic free fluid.  
4. Incidental note is made of situs inversus.  

Patient given toradol, Zofran, cipro/flagyl per Dr. ___ 
___. GI consulted.  
 
On transfer, VS: 98.5 60 120/77 15 97% RA  

 
Past Medical History:
1. Constipation - believed to be ___ methadone, poor fiber 
intake  
2. Situs inversus  
3. Hepatitis C, not treated  
4. Opioid abuse, now on methadone therapy  
5. Anxiety  
6. PTSD  
7. Depression  
8. Seasonal allergies  

 
Social History:
___
Family History:
Mother Living ___  
Father Living ___  
MGM Deceased ___ 
MGF Deceased CARDIAC DISEASE  
Sister Living ___ CONGENITAL DISABILITIES, SEIZURE DISORDER  

 
Physical Exam:
ADMISSION PHYSICAL EXAM

Vitals- weight 106.3kg T98.0 BP 108/65 HR 60 RR 18 98% RA  
GENERAL: Obese, A&Ox3, talkative  
HEENT: Conjunctivae pink, sclerae anicteric. Slight disconjugate 
gaze. MMM.  
NECK: No LAD. Thyroid not enlarged.  
LUNGS: Clear to auscultation bilaterally.  
HEART: RRR, S1, S2 normal  
ABDOMEN: Bowel sounds normal. Liver cannot be percussed or 
palpated on the right. No palpable spleen. +TTP in RLQ. No 
rebound or guarding.  
EXTREMITIES: medial left lower leg scar. No cyanosis or clubbing 
or edema.  

DISCHARGE PHYSICAL EXAM
Vitals-  97.7 102/65 52 96% RA
GENERAL: Obese, A&Ox3, avoids eye contact
HEENT: Conjunctivae pink, sclerae anicteric. Slight disconjugate 
gaze. MMM.  
NECK: No LAD. Thyroid not enlarged.  
LUNGS: Clear to auscultation bilaterally.  
HEART: RRR, S1, S2 normal  
ABDOMEN: NABS. Liver cannot be percussed or palpated on the 
right. No palpable spleen. NTTP, no guarding or rebound.
EXTREMITIES: medial left lower leg scar. No cyanosis or clubbing 
or edema.  
 
Pertinent Results:
LABS
===========
___ 11:50AM BLOOD WBC-16.1* RBC-5.01 Hgb-14.6 Hct-44.1 
MCV-88 MCH-29.1 MCHC-33.1 RDW-13.2 RDWSD-42.2 Plt ___
___ 11:50AM BLOOD Neuts-66.2 ___ Monos-8.6 Eos-0.7* 
Baso-0.2 Im ___ AbsNeut-10.67* AbsLymp-3.84* AbsMono-1.38* 
AbsEos-0.11 AbsBaso-0.04
___ 11:50AM BLOOD Glucose-103* UreaN-11 Creat-1.4* Na-137 
K-4.7 Cl-96 HCO3-28 AnGap-18
___ 11:50AM BLOOD ALT-26 AST-47* AlkPhos-88 TotBili-0.5
___ 11:50AM BLOOD Lipase-68*
___ 11:50AM BLOOD Albumin-4.3
___ 06:52AM BLOOD Calcium-8.4 Phos-2.1* Mg-1.4*
___ 11:50AM BLOOD HCG-<5
___ 12:19PM BLOOD Lactate-1.4
___ 05:54PM BLOOD Lactate-1.6
___ 06:08AM BLOOD WBC-16.1* RBC-3.98 Hgb-11.5 Hct-36.5 
MCV-92 MCH-28.9 MCHC-31.5* RDW-13.4 RDWSD-45.6 Plt ___
___ 06:55AM BLOOD WBC-9.8 RBC-3.83* Hgb-11.2 Hct-35.2 
MCV-92 MCH-29.2 MCHC-31.8* RDW-13.6 RDWSD-45.5 Plt ___
___ 06:00AM BLOOD WBC-6.0 RBC-3.99 Hgb-11.4 Hct-36.3 MCV-91 
MCH-28.6 MCHC-31.4* RDW-13.2 RDWSD-44.3 Plt ___
___ 06:30AM BLOOD WBC-6.1 RBC-4.25 Hgb-12.0 Hct-37.5 MCV-88 
MCH-28.2 MCHC-32.0 RDW-13.2 RDWSD-42.5 Plt ___
___ 07:00AM BLOOD WBC-6.0 RBC-4.31 Hgb-12.5 Hct-38.2 MCV-89 
MCH-29.0 MCHC-32.7 RDW-13.2 RDWSD-42.5 Plt ___
___ 06:08AM BLOOD Glucose-123* UreaN-9 Creat-1.4* Na-143 
K-3.8 Cl-107 HCO3-25 AnGap-15
___ 06:55AM BLOOD Glucose-97 UreaN-8 Creat-1.0 Na-142 K-3.9 
Cl-109* HCO3-25 AnGap-12
___ 06:00AM BLOOD Glucose-89 UreaN-6 Creat-0.9 Na-140 K-3.8 
Cl-106 HCO3-27 AnGap-11
___ 06:30AM BLOOD Glucose-98 UreaN-5* Creat-1.0 Na-140 
K-3.6 Cl-102 HCO3-29 AnGap-13
___ 07:00AM BLOOD Calcium-8.9 Phos-4.3 Mg-1.8

IMAGING
==========
IMPRESSION:
1. Inflammatory stranding centered at the splenic flexure, 
extending 
inferiorly along the descending colon, compatible with clinical 
history of 
colitis, may be infectious, inflammatory or ischemic. No 
pneumatosis or portal venous gas. 
2. Abundant colonic stool. 
3. Trace pelvic free fluid. 
4. Incidental note is made of situs inversus. 

Colonoscopy ___
At 40cm there was patchy erythema with occasional crated 
ulcerations. At 30cm there was circumferential erythema with 
diffuse cratered ulcerations, including one ulcer greater than a 
centimeter in diameter. At 20cm there was mild erythema. In the 
rectum there was mildly decreased vascularity. The prep was 
notably poor with scattered areas of solid stool and associated 
areas of mucosa that was unable to be examined. Biopsied were 
taken every 10cm from 80cm to 10cm. Cold forceps biopsies were 
performed for histology at the 80cm. Cold forceps biopsies were 
performed for histology at the 70cm. Cold forceps biopsies were 
performed for histology at the 60cm. Cold forceps biopsies were 
performed for histology at the 50cm. Cold forceps biopsies were 
performed for histology at the 40cm. Cold forceps biopsies were 
performed for histology at the 30cm. Cold forceps biopsies were 
performed for histology at the 20cm. Cold forceps biopsies were 
performed for histology at the 10cm. 

 
Brief Hospital Course:
___ year-old female currently on methadone maintenance therapy 
with history of recently treated colitis presents due to severe 
abdominal pain and nausea thought likely ___ constipation 
presents with hypotension and found to have colitis on CT A/P. 

# Colitis- Presented with with RLQ abdominal pain, leukocytosis, 
___ found to have colitis on CT abdomen/pelvis. Patient was not 
on OCPs or other meds associated with intestinal ischemia. 
Infectious etiology seemed likely given young age, acute onset, 
and history of presumed infectious colitis with recent 
antibiotics. She was started on ciprofloxacin/flagyl to cover 
for infectious colitis and prevent bacterial translocation, 
broadened to vancomycin/cefepime when she spiked a fever and was 
hypotensive, but then narrowed back to cirpo/flagyl. Given 
concern for QT prolongation, ceftriaxone substituted 
ciprofloxacin. GI was consulted and determined the need for 
colonoscopy to obtain a tissue diagnosis. She was given Moviprep 
and underwent colonoscopy on ___ with multiple biopsies 
obtained. GI recommended a total of 7 days of antibiotics and 
was discharged on Augmentin and Flagyl. Pathology was pending at 
the time of discharge but follow-up was in place with Dr. 
___ to review the results and determine further need 
for treatment.

# Constipation- Most likely occurring in setting of methadone 
use and poor fiber diet. Methadone dose was decreased to 80mg 
after discussion with patient and she was given metamucil 
powder. NG tube placed to facilitate prep on ___ given 
patient's inability to tolerate drink the prep without becoming 
nauseated. She was given Moviprep every 6 hours along with 
enemas as needed and underwent colonoscopy on ___. She was 
discharged on Miralax BID as needed and simethicone for cramps.
 
# Opiate dependence: Dose confirmed with her ___ clinic as 
100mg once daily. Lethargic, hypoxic (high ___ and hypotensive 
(high ___ on ___ after receiving dose improved with 
reorientation and 1L IV fluids. Pharmacy was consulted but were 
unsure if there were any drug-drug interactions but recommended 
decreasing her dose to prevent repeat episode. After discussion 
with the patient, her dose was decreased to 80mg while in house 
and was advised to discuss the appropriate dosing with her 
outpatient provider's on discharge. She was given tylenol for 
pain and oxycodone only for severe breakthrough pain to help 
facilitate her colonoscopy prep.

# Hypoxia: Noted Spo2 in low ___ on RA on HD2. Chest xray showed 
atelectasis. No cough and on subcutaneous heparin for DVT 
prophylaxis without no signs on ___ exam. Respiratory rate was 
noted to be diminished following methadone dosing so etiology 
was presumed to be hypoventilation. She was given Incentive 
spirometry 10x/hour with general improvement in her O2 
saturation to the mid to high ___ on room air by discharge.

#Acute kidney injury- Admission creatinine 1.4. Resolved with IV 
fluid boluses indicating likely prerenal from dehydration given 
limited PO intake. Good urine output during admission with no 
signs of volume overload or permanent decreased renal function. 

# Long QT: On multiple QT prolonging medications (Zofran, 
ciprofloxacin, methadone, promethazine) and noted to have a QTc 
of 520 on routine EKG. Ciprofloxacin was changed to ceftriaxone 
and promethazine was discontinued. Repeat EKG 499. Patient 
refused to go on telemetry throughout admission despite 
extensive discussions about the risks. Electrolytes were 
monitored and repleted as needed for goal magnesium greater than 
2.0 and potassium 4.0.
 
Chronic issues:

# Anxiety: continued clonazepam 1 mg BID  
# ADHD: continued home dextroamphetamine/amphetamine  
# Seasonal allergies: continued fluticasone, cetirizine PRN  

Transitional: 
- follow-up final colonic pathology
- cont antibiotic augmentin/flagyl for 2 days (7 days total)
- bowel regimen with miralax
- follow-up with PCP and GI 
- noted to have situs inversus on CT
- given methadone at 80mg in the setting of poor po intake. 
Dosing to be adjusted at outpatient provider ___.
- QTc noted to be prolonged to 527. Held promethazine. Used 
Zofran sparingly after extensive discussion with patient about 
risks of torsades. Switched from cipro to CTX (full note in 
OMR). Discharge QTc 499.
- will need f/u EKG

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 30 mg oral DAILY 
2. Calcium Carbonate 500 mg PO QID:PRN stomach pain 
3. Gabapentin 800 mg PO DAILY 
4. ClonazePAM 1 mg PO BID 
5. CloniDINE 0.3 mg PO TID 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Famotidine 20 mg PO BID 
8. Methadone 100 mg PO DAILY 
9. Promethazine 25 mg PO DAILY:PRN after methadone 
10. Cetirizine 10 mg PO DAILY:PRN allergy symptoms 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO QID:PRN stomach pain 
2. ClonazePAM 1 mg PO BID 
3. CloniDINE 0.3 mg PO TID 
4. dextroamphetamine-amphetamine 30 mg oral DAILY 
5. Famotidine 20 mg PO BID 
RX *famotidine [Pepcid] 20 mg 1 tablet(s) by mouth twice daily 
Disp #*30 Tablet Refills:*0
6. Gabapentin 800 mg PO DAILY 
7. Methadone 100 mg PO DAILY 
8. Psyllium Powder 1 PKT PO TID:PRN gas/constipation 
RX *psyllium husk (aspartame) [Metamucil Fiber Singles] 3.4 gram 
1 packet by mouth three times a day Disp #*30 Packet Refills:*2
9. Simethicone 40-80 mg PO QID:PRN cramping 
RX *simethicone [Gas-X] 80 mg 1 tablet by mouth four times daily 
prn Disp #*40 Tablet Refills:*0
10. Cetirizine 10 mg PO DAILY:PRN allergy symptoms 
11. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
12. Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 gram by 
mouth twice a day Refills:*1
13. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times daily Disp #*18 Tablet Refills:*0
14. Cephalexin 500 mg PO Q8H 
RX *cephalexin 500 mg 1 capsule(s) by mouth three times daily 
Disp #*18 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis
Constipation
QTc prolongation
Situs inversus
Acute kidney injury

 
Discharge Condition:
Discharge condition: stable, improved
Mental status: AOx3
Ambulatory status: ambulates

 
Discharge Instructions:
Ms. ___, 

You were admitted for evaluation and treatment of you 
constipation and colitis. A CT showed inflammation in your colon 
consistent with colitis. You were empiric antibiotics and given 
laxatives. You underwent colonoscopy on ___ and will be told 
the results at your follow-up appointment. You should continue 
to take Miralax and antibiotics. 

It was a pleasure taking care of you during your stay- we wish 
you the best in your recover!

Your ___ Team
 
Followup Instructions:
___